US07091215B2
7-Bromo-2-ethylpyrazolo[1,5-a]pyridine
After dissolving 2-ethylpyrazolo[1,5-a]pyridine (80 mg) in tetrahydrofuran (1 mL), an n-butyllithiumhexane solution (1.6 M; 0.58 mL) was added dropwise at −78° C. under a nitrogen stream, and the mixture was stirred for 30 minutes. A solution of 1,2-dibromo-1,1,2,2-tetrachloroethane (196 mg) in tetrahydrofuran (0.5 mL) was added to the reaction mixture, and stirring was continued for 30 minutes. The temperature was increased to room temperature, water was added, extraction was performed with ethyl acetate and the organic layer was washed with water and brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography and the title compound (90 mg) was obtained from the n-hexane:ethyl acetate (20:1) fraction as a light brown oil.

reactant | 2-ethylpyrazolo[1,5-a]pyridine | 80 mg | C(C)C1=NN2C(C=CC=C2)=C1 | C9H10N2
reactant | n-butyllithiumhexane | 1.6 M, 0.58 mL | CCCCCC.C(CCC)[Li]
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 196 mg | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
reactant | water | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 7-Bromo-2-ethylpyrazolo[1,5-a]pyridine | 90 mg | BrC1=CC=CC=2N1N=C(C2)CC | C9H9BrN2
